US07951963B2
To 1,2-dimethoxyethane (25 mL) suspension of 0.16 g of dichlorobis(triphenylphosphine)palladium(II) were added 0.12 g of triphenylphosphine, 0.01 g of sodium borohydride, 5.53 g of potassium tert-butoxide and 3.48 g of tert-butyl cyanoacetate, which was then stirred at room temperature for 10 minutes. Thereto was added 5.00 g of 5-bromobenzothiophene, which was then refluxed for 2 hours. After to the reaction mixture was added 15 mL of water, the pH was adjusted to 1 with 2 mL of hydrochloric acid. The precipitate was collected by filtration to provide 5.69 g of tert-butyl 2-(1-benzothiophen-5-yl)-2-cyanoacetate as pale yellow solid form.

reactant | potassium tert-butoxide | 5.53 g | CC(C)([O-])C.[K+]
reactant | tert-butyl cyanoacetate | 3.48 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | 5-bromobenzothiophene | 5.00 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | hydrochloric acid | 2 mL | Cl | ClH
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.16 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | sodium borohydride | 0.01 g | [BH4-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
product | tert-butyl 2-(1-benzothiophen-5-yl)-2-cyanoacetate | 5.69 g | S1C=CC2=C1C=CC(=C2)C(C(=O)OC(C)(C)C)C#N | C15H15NO2S
